US07160875B2
a) 5-Acetyl-3-amino-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one
A solution of 0.5 g (1.8 mmol) (S)-(2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester in 1.7 ml of acetic anhydride is stirred for 3 hours at 65° C. The mixture was put onto water (5 ml) and extracted two times with dichloromethane (10 ml each). The combined organic layers were dried (MgSO4) and evaporated to yield 0.6 g of a light yellow foam. This compound was dissolved in a mixture of 2 ml of dichlorometane and 2 ml of trifluoracetic acid and stirred for 2.5 h at room temperature. For workup the mixture was concentrated in vacuo, then dichloromethane was added and the mixture was extracted with sodium bicarbonate solution. The organic phase was dried (MgSO4) and evaporated to yield 0.31 g of (S)-1-acetyl-3-amino-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one as a light yellow solid.

reactant | (S)-(2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester | 1.8 mmol, 0.5 g | C(C)(C)(C)OC(N[C@H]1CNC2=C(NC1=O)C=CC=C2)=O | C14H19N3O3
reactant | acetic anhydride | 1.7 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-Acetyl-3-amino-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one | 0.6 g | C(C)(=O)N1C2=C(NC(C(C1)N)=O)C=CC=C2 | C11H13N3O2
